US05449785
Sodium periodate (0.05 g, 0.234 mmole) and ruthenium oxide (0.02 g, 0.15 mmole) were added to a vigorously stirred emulsion of (2S,3R,4S,5S)-(3-benzyloxy-4-methoxy-5-methyltetrahydro-2H-pyran-2-yl)methanol (0.02 g, 0.075 mmole) in a mixed solvent of acetonitrile (2 ml), carbon tetrachloride (2 ml) and water (3 ml). After stirring for 12 hr, the reaction mixture was adjusted to pH 2 with 0.1N aqueous HCl and partitioned between ether (20 ml) and water (10 ml). The ether layer was dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure. To a solution of the resulting crude acid in a mixed solvent of ether (5 ml) and MeOH (1 ml) there was added a 10% solution of trimethylsilyldiazomethane in n-hexane (0.5 g, 0.44 mmole). The mixture was stirred at room temperature for 10 min. The solution was evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel using AcOEt/n-hexane (2:8) as an eluent to give methyl (2R,3R,4S,5S)-3-benzyloxy-4-methoxy-5-methyltetrahydro-2H-pyran-2-carboxylate (6.6 mg, 30% yield) as an oil; EI-MS m/z 294 (M+); 1H-NMR (CDCl3)d: 1.0 (3H,d,J=7.2 Hz), 2.2 (1H,m), 3.20 (1H,dd, J=5 & 11 Hz), 3.35 (1H,dd,J=4 & 9 Hz), 3.6 (1H,t,J=9 Hz), 3.65 (3H,s), 3.7 (3H,s), 3.8 (1H,d,J=9 Hz), 4.0 (1H,dd,J=4 & 11 Hz), 4.59 (1H,d,J=12 Hz), 4.62 (1H,d,J=12 Hz), 7.3 (5H,m).

reactant | Sodium periodate | 0.234 mmole, 0.05 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | (2S,3R,4S,5S)-(3-benzyloxy-4-methoxy-5-methyltetrahydro-2H-pyran-2-yl)methanol | 0.075 mmole, 0.02 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC[C@@H]([C@@H]1OC)C)CO | C15H22O4
reactant | HCl | 0.1N | Cl | ClH
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | n-hexane | 0.44 mmole, 0.5 g | CCCCCC | C6H14
reactant | MeOH | 1 ml | CO | CH4O
catalyst | ruthenium oxide | 0.15 mmole, 0.02 g | [Ru]=O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | water | 3 ml | O | H2O
solvent | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | methyl (2R,3R,4S,5S)-3-benzyloxy-4-methoxy-5-methyltetrahydro-2H-pyran-2-carboxylate | 6.6 mg, 30% yield | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC[C@@H]([C@@H]1OC)C)C(=O)OC | C16H22O5
